US04631343
A solution of 7.36 g of 5-chloro-1-(2-pyridinyl)-1H-pyrazole-4-carboxylic acid, ethyl ester, 3.2 g of sodium cyanide and 25 ml of DMF was heated at approximately 100° C. for 3 hours. The reaction mixture was cooled and poured into 300 ml of ice water. The precipitated solid was collected by filtration to afford 5.79 of solid. This material was recrystallized from ethanol to provide 4.72 g of 5-cyano-1-(2-pyridinyl)-1H-pyrazole-4-carboxylic acid, ethyl ester. mp=112°-114° C.

reactant | 5-chloro-1-(2-pyridinyl)-1H-pyrazole-4-carboxylic acid, ethyl ester | 7.36 g | ClC1=C(C=NN1C1=NC=CC=C1)C(=O)OCC | C11H10ClN3O2
reactant | sodium cyanide | 3.2 g | [C-]#N.[Na+]
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 5-cyano-1-(2-pyridinyl)-1H-pyrazole-4-carboxylic acid, ethyl ester | 4.72 g | C(#N)C1=C(C=NN1C1=NC=CC=C1)C(=O)OCC | C12H10N4O2
